US05753664
1-[4-(4-Chlorobenzoyl)benzyl]-6-isopropyl-7-methylimidazo[1,2-a]pyrimidin-5(1H)-one
To a solution of 6-isopropyl-7-methylimidazo[1,2-a]pyrimidin-5-one (0.400 g, 2.23 mmol) and 4-(4-chlorobenzoyl) benzyl bromide (0.762 g, 2.46 mmol) in DMF (15.0 ml) was added potassium carbonate (0.600 g, 4.50 mmol) and the mixture was stirred at room temperature overnight. The solvent was then distilled off and the residue was purified by silica gel column chromatography (methylene chloride: acetone=20:1) to provide a colorless amorphous solid.

reactant | 6-isopropyl-7-methylimidazo[1,2-a]pyrimidin-5-one | 2.23 mmol, 0.400 g | C(C)(C)C1=C(N=C2N(C1=O)CC=N2)C | C10H13N3O
reactant | 4-(4-chlorobenzoyl) benzyl bromide | 2.46 mmol, 0.762 g | ClC1=CC=C(C(=O)C2=CC=C(CBr)C=C2)C=C1 | C14H10BrClO
reactant | potassium carbonate | 4.50 mmol, 0.600 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 15.0 ml | CN(C)C=O | C3H7NO
product | 1-[4-(4-Chlorobenzoyl)benzyl]-6-isopropyl-7-methylimidazo[1,2-a]pyrimidin-5(1H)-one | ClC1=CC=C(C(=O)C2=CC=C(CN3C=CN4C3=NC(=C(C4=O)C(C)C)C)C=C2)C=C1 | C24H22ClN3O2
